US07259183B2
To a solution of 1-bromo-4-cyclopropylbenzene [synthesized in analogy to a procedure described in J. Org. Chem. 41:2262-2266 (1976)] (1.58 g, 8.04 mmol) in THF at −78° C. was added n-BuLi (5.08 ml, 1.6M solution in hexane, 8.11 mmol) and the reaction mixture was stirred at −78° C. for 10 min. DMF (1.25 ml, 16.08 mmol) was then added and the reaction mixture was stirred at −78° C. for 15 min. The reaction mixture was then warmed to 0° C. slowly (over 2 h) and stirred at 0° C. for 1 h. The reaction was quenched with sat. NH4Cl (aq) solution and the aqueous phase was extracted with ether. The organic layer was washed with brine, dried (MgSO4), filtered and concentrated in vacuo to give a residue which was purified by flash column chromatography (1:9 diethylether:pentane) to give 4-cyclopropyl benzaldehyde (1.10 g, 94%) as a colorless oil. 1H NMR (CDCl3, 300 MHz): δ 9.94 (s, 1H), 7.76 (d, J=8.5 Hz, 2H), 7.19 (d, J=8.5 Hz, 2H), 1.97 (m, 1H), 1.13-1.06 (m, 2H), 0.84-0.78 (m, 2H).

reactant | 1-bromo-4-cyclopropylbenzene | BrC1=CC=C(C=C1)C1CC1 | C9H9Br
reactant | n-BuLi | 8.11 mmol, 1.6M, 5.08 ml | [Li]CCCC
reactant | DMF | 16.08 mmol, 1.25 ml | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 4-cyclopropyl benzaldehyde | 1.10 g, 94% | C1(CC1)C1=CC=C(C=O)C=C1 | C10H10O
